US04174405
In a 1-liter stainless steel autoclave equipped with stirrer were placed 71 g (0.217 mole) of 1,2-diphenyl-4-p-tolylbutane-1,4-dione, 100 ml of xylene, and 45 g (0.101 mole) of phosphorus pentasulfide. The autoclave was sealed, chilled in a Dry Ice-acetone bath, and charged with 120 g (3.52 moles) of hydrogen sulfide. The autoclave was then heated at 160°-190° C. (920-1130 psig) for 225 minutes. The autoclave was cooled to room temperature and the hydrogen sulfide vented into an aqueous sodium hydroxide solution. The residue in the autoclave was stirred with 150 ml of absolute ethanol. The slurry thus formed was filtered. The residue was dried to give 35.4 g (50.0%) of crude 2,3-diphenyl-5-p-tolylthiophene, m.p. 110°-112° C. Recrystallization from 190 ml. of toluene and 625 ml. of ethanol gave 30.1 g (42.5%) of pure 2,3-diphenyl-5-p-tolylthiophene, m.p. 114°-116° C.

reactant | 1,2-diphenyl-4-p-tolylbutane-1,4-dione | 0.217 mole, 71 g | C1(=CC=CC=C1)C(C(CC(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1)=O | C23H20O2
reactant | phosphorus pentasulfide | 0.101 mole, 45 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | hydrogen sulfide | 3.52 moles, 120 g | S | H2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,3-diphenyl-5-p-tolylthiophene | 35.4 g, 50.0% | C1(=CC=CC=C1)C=1SC(=CC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C23H18S
